US05612340
9.22 g (43.8 mmol)of 3-dimethylamino-1-(2-chloro-5-pyridyl)-2-propen-1-one is suspended in 88 ml of 2-propanol. 11 g (43.8 mmol) of 3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl-guanidine nitrate and 1.93 g (48.4 mmol) of sodium hydroxide are added and the reaction mixture is boiled under reflux for 19 h. After cooling to RT, the product is isolated by filtration, washed with 2-propanol and water and dried at 50° under HV. N[3(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-chloro-5-pyridyl)-2-pyrimidineamine is obtained; FAB-MS: 399 (M+ +H), m.p. 182°-184°.

reactant | 3-dimethylamino-1-(2-chloro-5-pyridyl)-2-propen-1-one | 43.8 mmol, 9.22 g | CN(C=CC(=O)C=1C=CC(=NC1)Cl)C | C10H11ClN2O
reactant | 3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl-guanidine nitrate | 43.8 mmol, 11 g | [N+](=O)(O)[O-].FC(C(F)F)(OC=1C=C(C=CC1)NC(=N)N)F
reactant | sodium hydroxide | 48.4 mmol, 1.93 g | [OH-].[Na+]
solvent | 2-propanol | 88 ml | CC(C)O | C3H8O
product | N[3(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-chloro-5-pyridyl)-2-pyrimidineamine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C=CC(=NC1)Cl)F | C17H11ClF4N4O
